US04294969
The crude 2-cyano-5-(N,N-dimethylamino)-4-methyl-2,4-pentanedienoate (15.9 g) was dissolved in acetic acid (50 ml) and the mixture heated at 40°. A solution of 30% HBr/acetic acid (100 ml) was added dropwise and then the mixture was heated to 55° with stirring. After heating for 3/4 of an hour, the solution was poured onto ice, neutralized with solid Na2CO3 and extracted with CH2Cl2 (4×200 ml). The organic extracts were dried over Na2SO4, filtered and concentrated to dryness. The residue was distilled at 114°-120° (0.4 mm) to yield 6.3 g (35% yield) of ethyl 2-bromo-5-methylnicotinate.

reactant | 2-cyano-5-(N,N-dimethylamino)-4-methyl-2,4-pentanedienoate | 15.9 g | C(#N)C(C(=O)[O-])=CC(=CN(C)C)C
reactant | HBr acetic acid | 100 ml | Br.C(C)(=O)O
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | ethyl 2-bromo-5-methylnicotinate | 6.3 g, 35% yield | BrC1=C(C(=O)OCC)C=C(C=N1)C | C9H10BrNO2
